US07030128B2
A stirred solution of 2,6-dibromopyridine (2.0 g, 8.3 mmol) and imidazole sodium salt (1.0 g, 10.5 mmol) in dimethylsulfoxide (10 ml) was heated at 100° C. for 36 h. After cooling to ambient temperature the reaction was diluted with water and extracted into dichloromethane. Combined organic extracts were washed with water and saturated brine then dried over magnesium sulfate, filtered and evaporated in vacuo to give a solid. Purification by chromatography on silica gel eluting with dichloromethane, then dichloromethane containing 5% methanol, gave 2-bromo-6-(1H-imidazol-1-yl)pyridine (0.18 g) as an off-white solid: δH (400 MHz, CDCl3) 7.20 (1H, m), 7.32 (1H, d, J 8), 7.47 (1H, d, J 8), 7.62 (1H, m), 7.68 (1H, dd, J 8 and 8), 8.35 (1H, s); m/z (ES+) 224/226 (M++H).

reactant | 2,6-dibromopyridine | 8.3 mmol, 2.0 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | imidazole sodium salt | 10.5 mmol, 1.0 g | [Na].N1C=NC=C1
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-bromo-6-(1H-imidazol-1-yl)pyridine | 0.18 g | BrC1=NC(=CC=C1)N1C=NC=C1 | C8H6BrN3
